US07812028B2
c) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31c, using 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide and 4-chlorophenyl-boronic acid as starting materials to give the product as white solid, MS (ISP): 433.4, 435.4 (M+H+).

reactant | 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCCCCO | C17H25BrN2O4
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCCCCO | C23H29ClN2O4
